US07199243B2
A mixture of ethyl-(4-isopropylphenoxy)acetate (1.61 g, 7.24 mmol) and 2N NaOH(aq) (10.9 mL) in 20 mL of methanol was stirred at ambient temperature for 3 h and concentrated under reduced pressure. The resulting residue was taken up in water (100 mL), acidified with 1N aqueous hydrochloric acid and extracted with ethyl acetate (2×100 mL). The organic extracts were combined, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to yield 1.32 g (94%) of 4-isopropylphenoxyacetic acid as a white solid.

reactant | ethyl-(4-isopropylphenoxy)acetate | 7.24 mmol, 1.61 g | C(C)OC(COC1=CC=C(C=C1)C(C)C)=O | C13H18O3
reactant | NaOH | 2N, 10.9 mL | [OH-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | 4-isopropylphenoxyacetic acid | 1.32 g, 94% | C(C)(C)C1=CC=C(OCC(=O)O)C=C1 | C11H14O3
